US06426345B1
A mixture of 4-(3-acetamidophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (6.03 g) in 3N hydrochloric acid (150 ml) was refluxed for 1 hour. Sodium bicarbonate was added thereto until the mixture was alkaline. The mixture was extracted with ethyl acetate and the organic solution was washed with water and brine, dried over magnesium sulfate and concentrated to give the solids. The solids were collected and washed with ethanol to give 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (5.05 g).

reactant | 4-(3-acetamidophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 6.03 g | C(C)(=O)NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C22H18N4O2
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 3N, 150 ml | Cl | ClH
product | 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 5.05 g | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C20H16N4O
